US06440995B1
(RS)-3-(2-m-Tolyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, m.p. 208-215° C., and MS: m/e=309.2 (M+H+), was prepared from 4-chloro-2-m-tolyl-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-m-tolyl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C=1C=C(C=CC1)C | C16H12ClN
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(2-m-Tolyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.C1(=CC(=CC=C1)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O)C | InChI=1S/C19H20N2O2.ClH/c1-13-5-4-6-14(9-13)18-10-19(20-11-15(23)12-22)16-7-2-3-8-17(16)21-18;/h2-10,15,22-23H,11-12H2,1H3,(H,20,21);1H
